US04180651
Into a solution of 112.7 parts by weight (1.0 partmole) cycloheptanone and 470 parts by weight (5.0 partmole) phenol there was introduced gaseous hydrobromic acid. The mildly exothermic reaction was moderated by external cooling, keeping the reaction temperature between 30° and 37° C. After ca. 1.5 hours of reaction time, the red colored mixture thickened and solids began to form. After an additional four hour contact with a slow stream of hydrobromic acid, all acid was removed by placing the stirred mixture under water aspirator vacuum and the solid phase removed by vaccum filtration. Washing the solids with hot water and recrystallizing them by charcoaling from aqueous menthol, yielded white crystals of 4,4'-cycloheptylidenediphenol, melting point 208°-209° C., that were 99.1% pure by gas chromatography analysis (retention time: 25.35 min.; p-cumylphenol reference retention time: 16.47 min.).

reactant | cycloheptanone | C1(CCCCCC1)=O | C7H12O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | hydrobromic acid | Br | BrH
product | 4,4'-cycloheptylidenediphenol | C1(CCCCCC1)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C19H22O2
